US06194426B1
A suspension of 5.2 g of 6-methyl-5-(3-pyridyl)-1H,3H-pyrrolo[1,2-c]thiazole-7-carboxylic acid and of 4.9 g of 1,1′-carbonyldiimidazole in 100 cm3 of tetrahydrofuran is stirred for 20 hours at approximately 20° C. The reaction mixture is then concentrated to dryness at reduced pressure (2.7 kPa) at a temperature close to 40° C., and the residue is taken up in 100 cm3 of water. The solid formed is drained on a glass sinter and washed with water and then recrystallized from 60 cm3 of acetonitrile. In this way 4.38 g of 7-(imidazolylcarbonyl)-6-methyl-5-(3-pyridyl)-1H,3H-pyrrolo[1,2-c]thiazole are obtained in the form of beige crystals which melt at 172° C.

reactant | 6-methyl-5-(3-pyridyl)-1H,3H-pyrrolo[1,2-c]thiazole-7-carboxylic acid | 5.2 g | CC=1C(=C2N(CSC2)C1C=1C=NC=CC1)C(=O)O | C13H12N2O2S
reactant | 1,1′-carbonyldiimidazole | 4.9 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | tetrahydrofuran | 100 cm3 | O1CCCC1 | C4H8O
product | 7-(imidazolylcarbonyl)-6-methyl-5-(3-pyridyl)-1H,3H-pyrrolo[1,2-c]thiazole | 4.38 g | N1C(=NC=C1)C(=O)C=1C(=C(N2CSCC21)C=2C=NC=CC2)C | C16H14N4OS
